US07989438B2
Step 2: 4-azidobutanoic acid
Methyl 4-azidobutanoate was suspended in 1N NaOH (1.2 eq) and the minimum of MeOH was added to make the reaction mixture homogenous. After 1 h at RT temperature, MeOH was removed in vacuo. The aqueous solution

reactant | Methyl 4-azidobutanoate | N(=[N+]=[N-])CCCC(=O)OC | C5H9N3O2
reactant | NaOH | 1N, 1.2 eq | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 4-azidobutanoic acid | N(=[N+]=[N-])CCCC(=O)O | C4H7N3O2
